US08877801B2
To a 30 mL vial containing (E)-methyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)-1-oxidobenzo[b]thiophen-3-yl)oxy)phenyl)acrylate (200 mg, 0.43 mmol) was added THF (5 mL), triphenylphosphine (420 mg, 1.60 mmol) and TMS-Cl (0.553 mL, 4.32 mmol). The reaction was heated to 75° C. for 18 h after which time the mixture was cooled to room temperature, quenched with sat. aq. NaHCO3 and diluted with DCM. The organic phase was collected (phase separator) and concentrated in vacuo to afford the crude product which was purified by column chromatography (SiO2, 0-60% EtOAc/Heptane) to afford (E)-methyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylate (110 mg, 0.25 mmol, 57% yield) as a white solid. 1H NMR (400 MHz, CDCl3) 8 ppm=7.58-7.73 (m, 3H), 7.38-7.50 (m, J=8.59 Hz, 2H), 7.28 (t, J=2.27 Hz, 2H), 6.96-7.05 (m, J=8.59 Hz, 2H), 6.85-6.96 (m, 3H), 6.32 (d, J=15.66 Hz, 1H), 3.90 (s, 3H), 3.81 (s, 3H), 3.82 (s, 3H).

reactant | (E)-methyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)-1-oxidobenzo[b]thiophen-3-yl)oxy)phenyl)acrylate | 0.43 mmol, 200 mg | COC=1C=CC2=C(S(C(=C2OC2=CC=C(C=C2)/C=C/C(=O)OC)C2=CC=C(C=C2)OC)=O)C1 | C26H22O6S
reactant | triphenylphosphine | 1.60 mmol, 420 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | TMS-Cl | 4.32 mmol, 0.553 mL | [Si](C)(C)(C)Cl | C3H9ClSi
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (E)-methyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylate | 0.25 mmol, 110 mg, 57% yield | COC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C/C(=O)OC)C2=CC=C(C=C2)OC)C1 | C26H22O5S
